US04584293
(b) 1-[2-(4,5-Dimethoxy-2-nitro-phenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound here is prepared from 4,5-dimethoxy-2-nitrophenylacetic acid (5.25 g, 0.0217 mol) and 1-amino-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane (5.4 g, 0.0217 mol) analogously to Example R(c). Yield: 8.2 g Mp: 116°-118° C.

reactant | 4,5-dimethoxy-2-nitrophenylacetic acid | 0.0217 mol, 5.25 g | COC1=CC(=C(C=C1OC)CC(=O)O)[N+](=O)[O-] | C10H11NO6
reactant | 1-amino-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | 0.0217 mol, 5.4 g | NCCCN(C1CC2=CC(=CC=C2CC1)OC)C | C15H24N2O
product | 1-[2-(4,5-Dimethoxy-2-nitro-phenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC(=C(C=C1OC)CC(=O)NCCCN(C1CC2=CC(=CC=C2CC1)OC)C)[N+](=O)[O-] | C25H33N3O6
